US05107013
d-2-(6-Methoxy-2-naphthyl)propionic acid
20.8 Ml (0.15 moles) of mesitylene and 30.9 g (0.10 moles) of (+)-2-(5-bromo-6-methoxy-2-naphthyl)propionic acid are added to 150 ml of chloroform and the mixture is cooled to 0° C. 20 Grams (0.15 moles) of anhydrous aluminum chloride are added portionwise under strong stirring to the mixture while going on with the cooling so that temperature does not exceed 20° C. The reaction mixture is kept at this temperature for 3 hours and then is poured into a mixture made of 100 g of ice and 10 ml of 32% hydrochloric acid. The reaction mixture is heated to 45° C., the layers are separated, the organic layer is twice washed with 50 ml of 1M hydrochloric acid and then with 100 ml of water. The organic layer is concentrated under vacuum and the residue is crystallized from 75 ml of toluene. The product is filtered and dried obtaining 21 g of the title compound, which corresponds to the drug known as naproxen, having [α]D 20 =+66.5° (C=1% in chloroform), with a yield of 91%.

reactant | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | (+)-2-(5-bromo-6-methoxy-2-naphthyl)propionic acid | 0.10 moles, 30.9 g | BrC1=C2C=CC(=CC2=CC=C1OC)C(C(=O)O)C | C14H13BrO3
reactant | aluminum chloride | 0.15 moles | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | d-2-(6-Methoxy-2-naphthyl)propionic acid | 21 g, yield of 91% | C[C@@H](C1=CC2=C(C=C1)C=C(C=C2)OC)C(=O)O | C14H14O3
